US04962203
Step 5. Preparation of 3-methoxy-5-propyl-benzaldehyde
A mixture of 3-methoxy-5-(1-propenyl)benzaldehyde (1.6 g) and platinum oxide (150 mg) in ethyl acetate (150 ml) were hydrogenated at 16 psi in a Parr hydrogenator for 5 hours. The mixture was filtered through a celite/charcoal plug and evaporated. Purification of the residue by flash chromatography using 12% ethyl acetate in hexane afforded the title compound.

reactant | 3-methoxy-5-(1-propenyl)benzaldehyde | 1.6 g | COC=1C=C(C=O)C=C(C1)C=CC | C11H12O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 150 mg | [Pt]=O
product | 3-methoxy-5-propyl-benzaldehyde | COC=1C=C(C=O)C=C(C1)CCC | C11H14O2
